US06495706B2
150 g (499 mmol) of dimethyl 1,15-pentadecandioate and 12 g (8.0% by weight per the diester) of the catalyst prepared in Preparative Example 1 were added to an autoclave and subjected to hydrogenation reaction at the hydrogen pressure of 20.0 Mpa at 250° C. After 8 hours, the degree of the conversion was 63% and the selectivity was 87%. The reaction was further continued, and after 10 hours, methyl 15-hydroxypentadecanoate was obtained in 61% yield. The results are shown in Table 2.

reactant | dimethyl 1,15-pentadecandioate | 499 mmol, 150 g | C(CCCCCCCCCCCCCC(=O)OC)(=O)OC | C17H32O4
reactant | hydrogen | [H][H] | H2
product | methyl 15-hydroxypentadecanoate | 61% yield | OCCCCCCCCCCCCCCC(=O)OC | C16H32O3
